US06111115
A process for preparing 2-(10,11-dihydro-10-oxodibenzo [b,f] thiepin-2-yl)propionic acid which comprises subjecting 2-(4-amino-3-carboxymethylphenyl)propionic acid or its salt to diazotization and subsequent reaction with thiophenol to produce 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid or its salt, and subjecting the product to cyclization reaction.

reactant | 2-(10,11-dihydro-10-oxodibenzo [b,f] thiepin-2-yl)propionic acid | O=C1CC2=C(SC3=C1C=CC=C3)C=CC(=C2)C(C(=O)O)C | C17H14O3S
reactant | 2-(4-amino-3-carboxymethylphenyl)propionic acid | NC1=C(C=C(C=C1)C(C(=O)O)C)CC(=O)O | C11H13NO4
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid | C(=O)(O)CC=1C=C(C=CC1SC1=CC=CC=C1)C(C(=O)O)C | C17H16O4S
